US04329347
6-[4-(2-Carboxyphenyl-sulfinyl)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 123 from 6-[4-(2-carboxyphenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril and hydrogen peroxide. M.p.: 194°-196° C. Yield: 77.2% of theory.

reactant | 6-[4-(2-carboxyphenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril | C(=O)(O)C1=C(C=CC=C1)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C20H21NO4S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[4-(2-Carboxyphenyl-sulfinyl)-butoxy]-3,4-dihydro-carbostyril | Yield: 77.2% | C(=O)(O)C1=C(C=CC=C1)S(=O)CCCCOC=1C=C2CCC(NC2=CC1)=O | C20H21NO5S
